US06248740B1
Production of 6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-2-phenyl[1,2,4]triazolo[1,5-b]pyridazine
365 mg of 6-chloro-2-phenyl[1,2,4]triazolo[1,5-b]pyridazine and 0.513 g of 4-(diphenylmethoxy)-1-piperidinepropanamine were suspended in 8 ml of n-butanol; 0.54 ml of N-ethyldiisopropylamine was added, followed by heating and refluxing for 19 hours. Ice water and sodium hydrogen carbonate were added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected and concentrated; the resulting crystal was recrystallized from ethyl acetate to yield 308 mg of the title compound.

reactant | 6-chloro-2-phenyl[1,2,4]triazolo[1,5-b]pyridazine | 365 mg | ClC=1C=CC=2N(N1)N=C(N2)C2=CC=CC=C2 | C11H7ClN4
reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 0.513 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | N-ethyldiisopropylamine | 0.54 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | n-butanol | 8 ml | C(CCC)O | C4H10O
product | 6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-2-phenyl[1,2,4]triazolo[1,5-b]pyridazine | 308 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)N=C(N2)C2=CC=CC=C2)C2=CC=CC=C2 | C32H34N6O
